US08278290B2
e) Preparation of {2-[1-(2-Dimethylamino-ethyl)-1H-pyrazol-4-yl]-6-methoxy-benzofuran-3-yl}-(3,4,5-trimethoxyphenyl)-methanone (Entry 42, Table 1)
To a stirred solution of [6-Methoxy-2-(1H-pyrazol-4-yl)-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone (45 mg, 0.11 mmol) in dry DMSO (1.5 mL) was added sodium hydride (60% dispersion in mineral oil, 13 mg, 0.33 mmol) and the reaction was stirred at room temperature for 20 minutes. After this time the resulting yellow suspension was treated with 2-chloroethyl-dimethylamine hydrogen chloride (24 mg, 0.17 mmol) and heated to 35-40° C. for 5 h. The reaction was quenched with water (15 mL) and ethyl acetate (20 mL) and the aqueous layer was washed with further portions of ethyl acetate (2×10 mL). The combined organic layers were dried over magnesium sulphate and the solvent was removed under vacuum. The crude residue was purified by flash chromatography (alumina activated with 1.2% water, sequential elution—1:1 DCM:hexane, 9:1 DCM:ethyl acetate) to afford the product as a yellow resinous gum (23 mg, 44% yield). 1H-NMR (CDCl3) δ 8.17 (s, 1H), 8.00 (s, 1H), 7.12 (s, 2H), 7.11 (d, J=8.7 Hz, 1H), 7.03 (d, J=2.2 Hz, 1H), 6.79 (dd, J=8.7, 2.2 Hz, 1H), 4.23 (t, J=6.7 Hz, 2H), 3.92 (s, 3H), 3.85 (s, 3H), 3.77 (s, 6H), 2.78 (t, J=6.7 Hz, 2H), 2.27 (s, 6H). 13C-NMR (CDCl3) δ 190.3, 158.1, 153.6, 152.9, 142.2, 139.0, 133.7, 130.4, 121.7, 120.9, 113.7, 112.5, 112.2, 111.5, 106.9, 95.5, 61.0, 58.7, 56.1, 55.7, 50.4, 45.4.

reactant | [6-Methoxy-2-(1H-pyrazol-4-yl)-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | 0.11 mmol, 45 mg | COC1=CC2=C(C(=C(O2)C=2C=NNC2)C(=O)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C22H20N2O6
reactant | sodium hydride | 0.33 mmol, 13 mg | [H-].[Na+]
reactant | 2-chloroethyl-dimethylamine hydrogen chloride | 0.17 mmol, 24 mg | Cl.ClCCN(C)C
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | {2-[1-(2-Dimethylamino-ethyl)-1H-pyrazol-4-yl]-6-methoxy-benzofuran-3-yl}-(3,4,5-trimethoxyphenyl)-methanone | 23 mg, 44% yield | CN(CCN1N=CC(=C1)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=CC(=C2)OC)C | C26H29N3O6
